### PR TITLE
Tweaks prompted by writing the AutoCorrode paper

### PR DESCRIPTION
**Pull request by lawrencecpaulson**
These are minor changes that should have no observable effect

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Misc/WordAdditional.thy [hunk 1]
```diff
@@ -155,32 +192,39 @@ lemma word_range_sorted:
     fixes M N :: nat
   assumes \<open>0 \<le> M\<close>
       and \<open>M < N\<close>
-      and \<open>N < 2^LENGTH('l::{len})\<close>
+      and \<open>N < 2^LENGTH('l::len)\<close>
     shows \<open>sorted (List.map (Word.word_of_nat :: nat \<Rightarrow> 'l word) [M..<N])\<close>
 using assms by (auto simp add: of_nat_inverse word_of_nat_le intro!: sorted_list_map_mono sorted_upt)
 
+lemma add_word_lessI:
+  fixes a :: "'a::len word"
```
Comment (dominic-mulligan-aws) [inline Misc/WordAdditional.thy]: Can you consistently use cartouches?

File: Misc/WordAdditional.thy [hunk 2]
```diff
@@ -155,32 +192,39 @@ lemma word_range_sorted:
...
+  have \<open>a + word_of_nat n \<le> a + word_of_nat b\<close>
+    using assms
+    by (metis add.commute add_lessD1 unat_of_nat_eq word_add_le_mono2 word_of_nat_le)
+  with assms show ?thesis
+    by simp
+qed
+
 lemma set_of_wordlist:
-    fixes M N :: \<open>nat\<close>
+  fixes M N :: \<open>nat\<close>
```
Comment (dominic-mulligan-aws) [inline Misc/WordAdditional.thy]: Can you maintain the alignment?

File: Micro_Rust_Examples/Linked_List.thy [hunk 3]
```diff
@@ -91,6 +91,7 @@ fun ll_points_to ::
          \<star> (ll_points_to ds next_ref_opt remainder))
   \<close>
 
+(*TODO: not used; delete?*)
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Linked_List.thy]: If we're not using this we can just delete it.

**Review by dominic-mulligan-aws — CHANGES_REQUESTED** [review]
@lawrencecpaulson a large number of changes in this PR are related to removing braces around the `len` sort.  Can these be reverted?  They obscure more meaningful changes.  Can you also clarify who Lukas is, mentioned in the comment, and what license the code he has written is submitted under?

**Comment by dominic-mulligan-aws** [comment]
Superceded by #78.
